US04687508
A mixture of 100.0 g of methyl 2-methyl-3-nitrobenzoate, 100.0 g of N-bromosuccinimide, 3.0 g of dibenzoyl peroxide and 1000 ml of carbon tetrachloride was refluxed for 24 hours. The reaction mixture was cooled, 3.0 g of dibenzoyl peroxide added, and refluxing continued an additional 24 hours. The reaction mixture was cooled, filtered and the filtrate concentrated in vacuo. The crude reaction product was dissolved in ether and the organic solution washed sequentially with saturated sodium sulfite (500 ml), water (2×500 ml), 2.5% sodium hydroxide (500 ml), water (2×500 ml) and saturated brine (500 ml). The organic solution was dried over magnesium sulfate, filtered and the solvent evaporated in vacuo giving a pale yellow oily solid. Recrystalllization from 350 ml of 1-chlorobutane/cyclohexane (2:1) gave 73.9 g of methyl 2-bromomethyl-3-nitrobenzoate, m.p. 67°-70°.

reactant | methyl 2-methyl-3-nitrobenzoate | 100.0 g | CC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H9NO4
reactant | N-bromosuccinimide | 100.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | carbon tetrachloride | 1000 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 1-chlorobutane cyclohexane | 350 ml | ClCCCC.C1CCCCC1
solvent | ether | CCOCC | C4H10O
catalyst | dibenzoyl peroxide | 3.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | dibenzoyl peroxide | 3.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | methyl 2-bromomethyl-3-nitrobenzoate | 73.9 g | BrCC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H8BrNO4
